US04867964
(1) Preparation of 2,4-dihydroxy-4'-methoxychalcone
A mixture of 3.04 g (0.02 mole) of 2,4-dihydroxyacetophenone, 10 ml of 60% strength aqueous potassium hydroxide and 10 ml of ethanol is cooled to 0° C. 2.72 g (0.02 mole) of anisaldehyde are added with stirring and the reaction mixture is heated to 50° C. for 4 hours. The mixture is then poured into a 10% solution of hydrochloric acid. The precipitate formed is filtered off, washed three times with water and is dried. It is then taken up with ethyl acetate, is treated with animal charcoal and is filtered rapidly through silica with a 9/1 mixture of pentane and ethyl acetate. A yellow product is obtained.

reactant | 2,4-dihydroxyacetophenone | 0.02 mole, 3.04 g | CC(=O)C=1C=CC(=CC1O)O | C8H8O3
reactant | potassium hydroxide | [OH-].[K+]
reactant | anisaldehyde | 0.02 mole, 2.72 g | COC=1C=CC(=CC1)C=O | C8H8O2
reactant | hydrochloric acid | Cl | ClH
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | 2,4-dihydroxy-4'-methoxychalcone | OC1=C(C=CC(=C1)O)C=CC(=O)C1=CC=C(C=C1)OC | C16H14O4
